US06696487B2
1-{[3-(1,1-Dimethylethyl)phenyl]oxy}-4-isothiocyanato-2,5-dimethylbenzene
Thiophosgene (0.38 ml) is added to a two-phase mixture at room temperature of 4-((3-(1,1-dimethyl-ethyl)phenyl)oxy)-2,5-dimethylaniline (1.35 g) in toluene (6 ml) and sodium bicarbonate (840 mg) in water (6 ml). The reaction mixture obtained is stirred for 2 h and the phases are then separated by settling. The aqueous phase is extracted with toluene and the combined organic phases are then washed with water, dried (magnesium sulphate) and then concentrated to give the title product.

reactant | Thiophosgene | 0.38 ml | C(=S)(Cl)Cl | CCl2S
reactant | 4-((3-(1,1-dimethyl-ethyl)phenyl)oxy)-2,5-dimethylaniline | 1.35 g | CC(C)(C)C=1C=C(C=CC1)OC1=CC(=C(N)C=C1C)C | C18H23NO
reactant | sodium bicarbonate | 840 mg | C([O-])(O)=O.[Na+]
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 6 ml | O | H2O
product | 1-{[3-(1,1-Dimethylethyl)phenyl]oxy}-4-isothiocyanato-2,5-dimethylbenzene | CC(C)(C)C=1C=C(C=CC1)OC1=C(C=C(C(=C1)C)N=C=S)C | C19H21NOS
